US08222416B2
A mixture of 1-benzenesulfonyl-5-fluoro-2-{1-[4-(2-methoxy-ethanesulfonyl)-phenyl]-3-methyl-but-1-enyl}-1H-pyrrolo[2,3-b]pyridine (0.6 g, 1.1 mmol) in ethanol (8 mL), tetrahydrofuran (15 mL) and an aqueous sodium hydroxide solution (10%, 10 mL) was heated at 45° C. for 16 h. The mixture was diluted with dichloromethane (150 mL), washed with water, dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company, 30% ethyl acetate/hexanes) afforded 2-{1-[4-(2-ethoxy-ethanesulfonyl)-phenyl]-3-methyl-but-1-enyl}-5-fluoro-1H-pyrrolo[2,3-b]pyridine (160 mg, 34%): LC/MS m/e calcd for C22H25FN2O3S [M+H]+ 417.52, observed 416.8.

reactant | 1-benzenesulfonyl-5-fluoro-2-{1-[4-(2-methoxy-ethanesulfonyl)-phenyl]-3-methyl-but-1-enyl}-1H-pyrrolo[2,3-b]pyridine | 1.1 mmol, 0.6 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)F)C(=CC(C)C)C2=CC=C(C=C2)S(=O)(=O)CCOC | C27H27FN2O5S2
reactant | sodium hydroxide | 10 mL | [OH-].[Na+]
reactant | ethanol | 8 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 2-{1-[4-(2-ethoxy-ethanesulfonyl)-phenyl]-3-methyl-but-1-enyl}-5-fluoro-1H-pyrrolo[2,3-b]pyridine | 160 mg, 34% | C(C)OCCS(=O)(=O)C1=CC=C(C=C1)C(=CC(C)C)C1=CC=2C(=NC=C(C2)F)N1 | C22H25FN2O3S
